US05481032
2.1 g (20 mmol) of acetic anhydride were added dropwise at 0° C. to a mixture of 2.0 g (8 mmol) of 2-chloro-4-fluoro-4'-methylbenzophenone, 9.9 g (0.07 mol) of disodium hydrogenphosphate and 3.8 g (40 mmol) of urea/hydrogen peroxide adduct in 50 ml of dichloromethane. The resulting mixture was then allowed to warmup to room temperature. After 12 h at 20° C., it was neutralized with sodium hydrogencarbonate solution and the aqueous phase was subsequently extracted with dichloromethane. The solvent was then distilled off from the organic phase under vacuum. 50 g of 70% sulfuric acid were added to the residue (2.5 g, containing ca. 80% of phenyl 2-chloro-4-fluorobenzoate) and the mixture was heated for 6 h at the boiling point. Dilution of the cooled mixture, extraction with methyl tert-butyl ether, drying, removal of the solvent and recrystallization of the crude product from water gives 1.0 g (5.7 mmol, 72%) of 2-chloro-4-fluorobenzoic acid in the form of a colorless powder (m.p. 182°-186° C.).

reactant | acetic anhydride | 20 mmol, 2.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-chloro-4-fluoro-4'-methylbenzophenone | 8 mmol, 2.0 g | ClC1=C(C(=O)C2=CC=C(C=C2)C)C=CC(=C1)F | C14H10ClFO
reactant | disodium hydrogenphosphate | 0.07 mol, 9.9 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | urea hydrogen peroxide | 40 mmol, 3.8 g | NC(=O)N.OO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-chloro-4-fluorobenzoic acid | 5.7 mmol, 1.0 g, 72% | ClC1=C(C(=O)O)C=CC(=C1)F | C7H4ClFO2
